US07094801B2
Ex-101A: A solution of N-(4-acetyl-phenyl)-methanesulfonamide (Ex-100A, 2.0 g, 9.4 mmol) in anhydrous DMF (300 mL) was treated with potassium carbonate (2.59 g, 18.8 mmol), followed by the addition of methyl iodide (5.85 mL, 94 mmol). The reaction mixture refluxed for two hours and was then treated with more methyl iodide (5.85 mL, 94 mmol). The reaction refluxed for another two hours, and reaction completeness was confirmed by HPLC analysis. The reaction was quenched with water (100 mL) and extracted with ethyl acetate (2×100 mL). The organic phase was collected, dried over sodium sulfate, and concentrated to a clear oil with residual DMF. Water (25 mL) was added to precipitate a white solid. The white solid was then filtered and dried by vacuum oven at 20° C. (−20 mm Hg) to give 1.37 g (64%) of N-(4-acetyl-phenyl)-N-methyl-methanesulfonamide. 1H-NMR (CDCl3) δ 7.88 (d, 2H), 7.48 (d, 2H), 3.38 (s, 3H), 2.86 (s, 3H), 2.60 (s, 3H). HRMS m/z: calc. 530.1307, found 530.1313.

reactant | N-(4-acetyl-phenyl)-methanesulfonamide | 9.4 mmol, 2.0 g | C(C)(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H11NO3S
reactant | potassium carbonate | 18.8 mmol, 2.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 94 mmol, 5.85 mL | CI | CH3I
reactant | methyl iodide | 94 mmol, 5.85 mL | CI | CH3I
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | N-(4-acetyl-phenyl)-N-methyl-methanesulfonamide | 1.37 g, 64% | C(C)(=O)C1=CC=C(C=C1)N(S(=O)(=O)C)C | C10H13NO3S
